US05952382
(a) Preparation of methyl 4-[7-(1-adamantyl)-6-allyl-2-naphthyl]benzoate
4 g (7.34 mmol) of methyl 4-[7-(1-adamantyl)-6-trifluoromethylsulfonyloxy-2-naphthyl]benzoate, 2.30 ml (7.9 mmol) of allyltributyltin, 630 mg of lithium chloride and 40 ml of DMF were introduced into a three-necked flask under a stream of nitrogen. The reaction mixture was stirred at room temperature for 30 minutes, 104 mg (0.146 mmol) of bis(triphenylphosphine)palladium(II) chloride were added and the reaction mixture was heated at 100° C. for three hours. The reaction mixture was poured into water and extracted with ethyl ether and the organic phase is separated by settling, dried over magnesium sulfate and evaporated.

reactant | methyl 4-[7-(1-adamantyl)-6-trifluoromethylsulfonyloxy-2-naphthyl]benzoate | 7.34 mmol, 4 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)OS(=O)(=O)C(F)(F)F | C29H27F3O5S
reactant | allyltributyltin | 7.9 mmol, 2.30 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 630 mg | [Cl-].[Li+]
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.146 mmol, 104 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | methyl 4-[7-(1-adamantyl)-6-allyl-2-naphthyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OC)C=C2)CC=C | C31H32O2
